US05336679
A. Ethyl 1-methyl-5,6,7,8-tetrahydroimidazo[1,5-a]pyridine-7-carboxylate
Ethyl 4-chlorobutyrate (7.0 g) was added at room temperature to a solution of 5-methyl-4-imidazole-carbaldehyde (4.17 g) and 60% oily sodium hydride (2.0 g) in 50 ml dimethylformamide (prepared by stirring at 50° C. for one hour). The resulting mixture was heated at 70° C. for four hours and then concentrated to dryness under reduced ressure, water was added to the residue, and the mixture was extracted with ethyl acetate. The organic layer collected was washed with water and then with saturated aqueous solution of sodium chloride, and dried over anhydrous magnesium sulfate. The dried solution was concentrated to dryness under reduced pressure, and the residue was subjected to column chromatography on silica gel (80 g). Elution with ethyl acetate gave 2.35 g (28%) of an about 1:1 mixture of 1-(3-ethoxycarbonylpropyl)-5-methyl-4-imidazole-carbaldehyde and 1-(3-ethoxylcarbonylpropyl)-4-methyl-5-imidazole-carbaldehyde.

reactant | Ethyl 4-chlorobutyrate | 7.0 g | ClCCCC(=O)OCC | C6H11ClO2
reactant | 5-methyl-4-imidazole-carbaldehyde | 4.17 g | CC1=C(N=CN1)C=O | C5H6N2O
reactant | sodium hydride | 2.0 g | [H-].[Na+]
reactant | 1-(3-ethoxycarbonylpropyl)-5-methyl-4-imidazole-carbaldehyde | C(C)OC(=O)CCCN1C=NC(=C1C)C=O | C11H16N2O3
reactant | 1-(3-ethoxylcarbonylpropyl)-4-methyl-5-imidazole-carbaldehyde | O(CC)C(=O)CCCN1C=NC(=C1C=O)C | C11H16N2O3
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | Ethyl 1-methyl-5,6,7,8-tetrahydroimidazo[1,5-a]pyridine-7-carboxylate | CC=1N=CN2C1CC(CC2)C(=O)OCC | C11H16N2O2
